US06265588B1
5-Methylisoxazole-4-carboxylic acid (4-aminophenyl)amide
10.1 g (0.08 mol) of 5-methylisoxazole-4-carboxylic acid and 8.65 g (0.08 mol) of p-phenylenediamine are dissolved in 300 ml of tetrahydrofuran and 18.05 g (0.088 mol) of dicyclohexylcarbodiimide are added. After 5 hours (“h”), the deposited precipitate is filtered off with suction, the organic phase is concentrated and the product is chromatographed on silica gel by means of ethyl acetate/petroleum ether with addition of 1% glacial acetic acid and then crystallized from ethyl acetate/petroleum ether. The yield of the process was 6.8 g of acetate salt with a melting point of 123° C. to 128° C.

reactant | 5-methylisoxazole-4-carboxylic acid | 0.08 mol, 10.1 g | CC1=C(C=NO1)C(=O)O | C5H5NO3
reactant | p-phenylenediamine | 0.08 mol, 8.65 g | C1=CC(=CC=C1N)N | C6H8N2
reactant | dicyclohexylcarbodiimide | 0.088 mol, 18.05 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 5-Methylisoxazole-4-carboxylic acid (4-aminophenyl)amide | NC1=CC=C(C=C1)NC(=O)C=1C=NOC1C | C11H11N3O2
